US04457931
(a) N-(2-Bromopropionyl)piperidine
Piperidine (73.3 grams; 0.91 moles) is dissolved in 400 cc of toluene and the solution is cooled to -10° C. There is added dropwise, (45.3 cc; 0.45 moles) of 2-bromopropionyl bromide while the temperature is not allowed to exceed -5° C. over a period of three hours. The mixture is stirred again for four hours, while the temperature is allowed to rise, then the mixture is filtered and the filtrate is evaporated under reduced pressure. The product boils at 102° C. (0.3 mm); IR (neat) νmax: 2940, 2860, 1650, 1450, 1380, 1260, 1140, 1020 cm-1. The product is a liquid very irritating to the skin and mucosae.

reactant | Piperidine | 0.91 moles, 73.3 grams | N1CCCCC1 | C5H11N
reactant | 2-bromopropionyl bromide | 0.45 moles, 45.3 cc | BrC(C(=O)Br)C | C3H4Br2O
solvent | toluene | 400 cc | C1(=CC=CC=C1)C | C7H8
product | N-(2-Bromopropionyl)piperidine | BrC(C(=O)N1CCCCC1)C | C8H14BrNO
